US07262257B2
Synthesis of 1-Boraadamantane THF Complex
Under Ar atmosphere and vigorous stirring, to 100 ml (1.0M) of allylmagnesium bromide in diethyl ether was added dropwise 4.8 g of borontrifloride diethyl ether. After refluxing for 30 min, the mixture was permitted to stand over night. The solution layer was transferred to another flask under Ar. The diethyl ether was removed by distillation at 60° C. under normal pressure. The triallyl borane was distilled from the mixture under reduced pressure to yield 2.7 g (60%). To a 100 ml flask preheated to 130° C. was added 2.7 g of triallyl borane. After stirring for 5 min was added 1.4 g of methyl propargyl ether. The mixture was stirred for 1 hour then cooled down to room temperature. To the mixture was added 0.7 ml of methanol and stirred for 15 min after the propene gas evacuated completely. To the remaining oil was added 20 ml (1.0 M) of borane THF complex in THF solution. The mixture was refluxed at 80° C. for 2 hours. The THF was then removed under vacuum at room temperature. The pure 1-boraadamantane THF complex was obtained from the white solid residue via sublimation under vacuum in 2.0 g (yield: 52%). The spectra data were as follows: 1H-NMR (25° C. in CDCl3) δ 3.4 ppm (t, 4H, THF CH2-O), δ 2.7 ppm (m, 3H, CH), δ 1.9 ppm (t, 4H, THF CH2), δ 1.1 ppm (m, CH2). 11B-NMR (25° C. in CDCl3) δ 12.58 ppm (s); 13C-NMR (25° C. in CDCl3) δ 24.1 ppm (s, THF CH2), δ 30.4 ppm (b, CH2-B), δ 34.9 ppm (s, CH), δ 40.8 ppm (s, CH2), δ 68.2 ppm (s, THF CH2—O).

reactant | allylmagnesium bromide | 100 ml | C(C=C)[Mg]Br
reactant | triallyl borane | 2.7 g | C(C=C)B(CC=C)CC=C | C9H15B
reactant | methyl propargyl ether | 1.4 g | C(C#C)OC | C4H6O
reactant | propene | C=CC | C3H6
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 0.7 ml | CO | CH4O
product | 1-Boraadamantane THF | yield: 52% | B12CC3CC(CC(C1)C3)C2.C1CCOC1 | InChI=1S/C9H15B.C4H8O/c1-7-2-9-3-8(1)5-10(4-7)6-9;1-2-4-5-3-1/h7-9H,1-6H2;1-4H2
